* GENERATED by sim/lib/pspice_native.py from ../tps72325_ti.lib -- do not edit.
* ngspice-native syntax; the TI original is untouched beside it.
* ==========================================================================
* TPS72325 (-2.5 V) built from TI's UNENCRYPTED TPS72301 PSpice model
* ==========================================================================
* Source: TI SLVMBZ8, "TPS723 Unencrypted PSpice Transient Model",
*         (C) 2013 Texas Instruments, released via the WEBENCH Design Center.
*         Verbatim copy in sim/models/vendor/tps72301_ti_pspice.lib.
*
* TPS72301 is the ADJUSTABLE member of the family; TPS72325 is the same
* silicon with an internal -2.5 V divider.  TI's own model exposes the
* reference as a parameter and takes the feedback from an FB pin, so the
* fixed-output part is reproduced by setting vref = -2.5 and tying FB to
* OUT.  (The model's error term is V(ref)*|V(out)|/|V(fbk)|, so FB = OUT
* makes the regulated output equal vref exactly.)
*
* WHY THIS MATTERS MORE THAN THE BEHAVIOURAL MODEL IT REPLACES:
* TI's ldo_basic implements the enable as
*     IF( ABS(V(enb,vgnd) + hysteresis) > venb, 1, 0 )
* -- an ABSOLUTE VALUE.  The TPS723xx EN pin is BIPOLAR, not active-low:
* per SLVS346E it turns on for EN >= +1.5 V *or* EN <= -1.5 V, and is off
* only inside a +-0.4 V dead band around ground.  The board ties EN to IN
* (about -5 V), which is the datasheet's own always-enabled wiring and is
* inside the -10..+5 V recommended EN range.  Using the vendor model means
* that conclusion is the vendor's, not ours.
*
* TWO SILICON REVISIONS ship under this part number (SLVS346E):
*   legacy (CSO code DLN): dropout 280 mV typ, Iq 130 uA, startup 1 ms,
*                          Vout tolerance +-3.0 %
*   new    (CSO code DM6): dropout 140 mV typ, Iq  30 uA, startup 8 ms,
*                          Vout tolerance +-1.6 %
* TI's model carries the LEGACY numbers (drop = 0.28, ttrn = 1 ms), so
* TPS72325_TI below is the legacy part.  TPS72325_TI_NEW is the same model
* re-parameterised for the newer silicon.  Anything that must hold for a
* part bought today has to hold for both.
*
* ngspice notes: this file and the TI file it includes are PSpice syntax and
* need ngspice's PSpice compatibility mode.  The driver issues
* `set ngbehavior=psa` BEFORE sourcing the deck -- a `.options` line inside
* the deck is too late, because by then IF()/VALUE{} have already failed to
* parse.  No hand conversion of the TI text was needed.
* ==========================================================================

.include tps72301_ti_pspice.lib

* --- legacy silicon, board pin order: GNDP IN EN NR OUT -------------------
.SUBCKT TPS72325_TI GNDP IN EN NR OUT
* The NR pin is a reference-noise node the TI model does not represent; it
* is terminated so the board's C_NR has somewhere to sit without floating.
Rnr NR GNDP 250e3
* The board ties EN to the IN net, which would map two of TI's formals onto
* one node and stall the transient.  1 mohm keeps them distinct.
Reniso EN en_i 1e-3
X1  OUT GNDP IN IN en_i OUT ldo_basic  PARAMS:  rinp = 1.000e+7  rout = 2.500e-2  psrr = 5.623e-4  pole = 3.000e+2  zero = 4.000e+4  venb = 1.500e+0  ehys = 1.000e-1  uvlo = -1.500e+0  uhys = -1.000e-1  vref = -2.500e+0  drop = 2.800e-1  ilim = 3.000e-1  ttrn = 1.000e-3
.ENDS TPS72325_TI

* --- newer silicon: lower dropout, slower soft start ---------------------
.SUBCKT TPS72325_TI_NEW GNDP IN EN NR OUT
Rnr NR GNDP 250e3
* The board ties EN to the IN net, which would map two of TI's formals onto
* one node and stall the transient.  1 mohm keeps them distinct.
Reniso EN en_i 1e-3
X1  OUT GNDP IN IN en_i OUT ldo_basic  PARAMS:  rinp = 1.000e+7  rout = 2.500e-2  psrr = 5.623e-4  pole = 3.000e+2  zero = 4.000e+4  venb = 1.500e+0  ehys = 1.000e-1  uvlo = -1.500e+0  uhys = -1.000e-1  vref = -2.500e+0  drop = 1.400e-1  ilim = 3.000e-1  ttrn = 8.000e-3
.ENDS TPS72325_TI_NEW
