* GENERATED by sim/lib/pspice_native.py from ../tps72301_ti_pspice.lib -- do not edit.
* ngspice-native syntax; the TI original is untouched beside it.
***
*$
*  TPS72301 Model
*****************************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warrenties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: TPS72301
* Date: 05/01/2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLVS346B - SEPTEMBER 2003 - REVISED JULY 2007
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
* source LDO_Create.php - TPS72301

.SUBCKT TPS72301 GND IN EN FB OUT
X1  OUT GND IN IN EN FB  LDO_BASIC   PARAMS:   rinp = 1.000e+7   rout = 2.500e-2   psrr = 5.623e-4   pole = 3.000e+2   zero = 4.000e+4   venb = 1.500e+0   ehys = 1.000e-1   uvlo = -1.500e+0   uhys = -1.000e-1   vref = -1.186e+0   drop = 2.800e-1   ilim = 3.000e-1   ttrn = 1.000e-3 
.ENDS TPS72301 

*$
.SUBCKT ldo_basic out vgnd vin bias enb fbk   PARAMS:   rinp = 1e07   rout = 0.1  psrr = 5e-4  pole = 100  zero = 10e3  venb = 1.0  ehys = 0.1  uvlo = 2.0  uhys = 0.1  vref = 1.20  drop = 0.25  ilim = 0.10  ttrn = 1e-4
R00 vin vxx  { rinp } 
C00 vin vxx  { 1/(6.28*rinp*pole) } 
EX1 vx1   0 VALUE={ternary_fcn(ABS(V(enb, vgnd) + V(egd)*SGN(V(enb, vgnd))*ehys) > venb, 1, 0)}
RX1 vx1 egd 10
CX1 egd   0 1n
EX2 vx2   0 VALUE={ternary_fcn(V(bias, vgnd) + V(vgd)*uhys < uvlo, 1, 0)}
RX2 vx2 vgd 10
CX2 vgd   0 1n
E01 v01 vgnd VALUE={   ternary_fcn(V(egd)>0.51&&V(vgd)>0.51,  vref , 0) }
R01 v01 ref {3.333e5*SQRT(ttrn)}
C01 ref vgnd {1e-6*SQRT(ttrn)}
E02 v02   0  VALUE={  V(ref)*(ABS(V(out)) + 1E-6)/(ABS(V(fbk)) + 1E-6) }
R02 v02 des 10
C02 des   0 1n
E03 drv   0 VALUE={  MAX(V(des), MIN(V(vin)+drop, 0))}
R03 drv vxx { psrr*rinp } 
C03 drv vxx { 1/(6.28*psrr*rinp*zero) } 
E04 vyy   0  VALUE={   MAX(V(vxx), V(vzz) - ilim*rout) }
R04 vyy vzz { rout }
F04 vin vyy V04 1
V04 vzz out 0V
.ENDS ldo_basic

